US07141596B2
Step 5. Synthesis of methyl 3-bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)benzoate
Methyl 4-[1-(aminosulfonyl)-3-methoxy-3-oxopropyl]-3-bromobenzoate (187 mg, 0.492 mmol) in methanol (16 mL) was treated with sodium methoxide (281 μL, 4.92 mmol) at 0° C. The solution stirred at room temperature for 3 h and 30 minutes. The reaction mixture was purified by preparative LCMS to afford product as a white solid (66 mg, 38%). 1H NMR (400 MHz, CD3OD): δ 8.31 (d, J=1.8 Hz, 1H), 8.07 (dd, J=8.2, 1.8 Hz, 1H), 7.67 (d, J=8.2 Hz, 1H), 5.71 (dd, J=8.7, 6.7 Hz, 1H), 3.94 (s, 3H), 3.52 (dd, J=17.5, 8.6 Hz, 1H), 3.27 (m, 1H). LCMS found for C11H10BrNO5SNa (M+Na)30: m/z=370, 372.

reactant | Methyl 4-[1-(aminosulfonyl)-3-methoxy-3-oxopropyl]-3-bromobenzoate | 0.492 mmol, 187 mg | NS(=O)(=O)C(CC(=O)OC)C1=C(C=C(C(=O)OC)C=C1)Br | C12H14BrNO6S
reactant | sodium methoxide | 4.92 mmol, 281 μL | C[O-].[Na+]
solvent | methanol | 16 mL | CO | CH4O
product | methyl 3-bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)benzoate | 66 mg, 38% | BrC=1C=C(C(=O)OC)C=CC1C1CC(NS1(=O)=O)=O | C11H10BrNO5S
